US09315521B2
To a solution of (5-fluoropyridin-3-yl)methanol (430 mg, 3.4 mmol) in anhydrous dichloromethane (30 mL) was added dropwise phosphorus tribromide (650 μL, 6.8 mmol). The mixture was stirred at room temperature overnight. Dichloromethane was evaporated. The residue was dried in vacuo, affording 3-(bromomethyl)-5-fluoropyridine hydrobromide. The product was used without further purification.

reactant | (5-fluoropyridin-3-yl)methanol | 3.4 mmol, 430 mg | FC=1C=C(C=NC1)CO | C6H6FNO
reactant | phosphorus tribromide | 6.8 mmol, 650 μL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(bromomethyl)-5-fluoropyridine hydrobromide | Br.BrCC=1C=NC=C(C1)F | InChI=1S/C6H5BrFN.BrH/c7-2-5-1-6(8)4-9-3-5;/h1,3-4H,2H2;1H
